US07897767B2
mCPBA (2.33 g, 13.5 mmol) was added to a suspension of tert-butyl 3-(2-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)propylcarbamate (4.86 g, 9.67 mmol) in chloroform (50 mL). The reaction mixture was allowed to stir for 4 hours, then concentrated ammonium hydroxide (27 mL) and p-toluenesulfonyl chloride (2.03 g, 10.6 mmol) were added. The reaction mixture was allowed to stir overnight at room temperature, then was filtered. The filtrate was diluted with saturated aqueous sodium bicarbonate (50 mL) and extracted with chloroform (2×40 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated to afford a brown solid that was purified by chromatography using a HORIZON HPFC system (silica gel, gradient elution with 0-30% CMA in chloroform) to afford 1.00 g of tert-butyl 3-{4-amino-2-[(aminooxy)methyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}propylcarbamate as a yellow solid that contained some minor impurities.

reactant | mCPBA | 13.5 mmol, 2.33 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | tert-butyl 3-(2-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)propylcarbamate | 9.67 mmol, 4.86 g | O=C1N(C(C2=CC=CC=C12)=O)OCC=1N(C2=C(C=NC=3C=CC=NC23)N1)CCCNC(OC(C)(C)C)=O | C26H26N6O5
reactant | ammonium hydroxide | 27 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 10.6 mmol, 2.03 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 3-{4-amino-2-[(aminooxy)methyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}propylcarbamate | 1.00 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCCNC(OC(C)(C)C)=O)CON | C18H25N7O3
